US05378690
Diethyl (3,3-dimethyl-2-oxobutyl)-(1-naphthylmethyl)-malonate
5.00 g (16.9 mmole) of diethyl (1-naphthylmethyl)malonate were dissolved in 50 ml of anhydrous dimethylformamide, and 1.00 g (18.5 mmole) of sodium methoxide was added to the solution, whilst ice-cooling, after which the mixture was stirred for 30 minutes. At the end of this time, a solution of 3.31 g (18.5 mmole) of 1-bromopinacolone (i.e. 1-bromo-3,3-dimethyl-2-butanone) dissolved in 10 ml of anhydrous dimethylformamide was added dropwise to the mixture, which was then stirred overnight at room temperature. The solvent was then removed by distillation under reduced pressure, and the resulting residue was mixed with a saturated aqueous solution of sodium chloride and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was removed by evaporation under reduced pressure. The residue was purified by column chromatography through silica gel (eluent: a 6: 1 by volume mixture of hexane and ethyl acetate), to afford 5.51 g (82%) of the title compound as a colorless oil.

reactant | diethyl (1-naphthylmethyl)malonate | 16.9 mmole, 5.00 g | C1(=CC=CC2=CC=CC=C12)CC(C(=O)OCC)C(=O)OCC | C18H20O4
reactant | sodium methoxide | 18.5 mmole, 1.00 g | C[O-].[Na+]
reactant | 1-bromopinacolone | 18.5 mmole, 3.31 g | BrCC(C(C)(C)C)=O | C6H11BrO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Diethyl (3,3-dimethyl-2-oxobutyl)-(1-naphthylmethyl)-malonate | 5.51 g, 82% | CC(C(CC(C(=O)OCC)(C(=O)OCC)CC1=CC=CC2=CC=CC=C12)=O)(C)C | C24H30O5
